US05935956
4,4a,5,6-Tetrahydro-2-(4-methylphenyl)pyrido[3,4-h]cinnolin-3(2H)-one
Methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide (1.2 g) (Wu et al, Synthetic Communications 24, 273 (1994)) 4-tolylhydrazine (0.5 g) and 4-tolylhydrazine hydrochloride (0.19 g) in xylene (20 ml) were heated under reflux for 3 hours. The reaction mixture was allowed to cool to room temperature and the volatiles removed. The residue was dissolved in dichloromethane-methanol, washed with sodium hydrogen carbonate solution twice and then brine. The organic phase was dried, filtered and concentrated to a dark oil. The crude product was adsorbed onto silica and chromatographed eluting with 7:3 dichloromethane:ethyl acetate. The resultant oil was triturated with ether and recrystallised from isopropanol to give the title compound (0.3 g).

reactant | Methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide | 1.2 g | Br.O=C1C=2C=CN=CC2CCC1CC(=O)OC
reactant | 4-tolylhydrazine | 0.5 g | C1(=CC=C(C=C1)NN)C | C7H10N2
reactant | 4-tolylhydrazine hydrochloride | 0.19 g | Cl.C1(=CC=C(C=C1)NN)C
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4,4a,5,6-Tetrahydro-2-(4-methylphenyl)pyrido[3,4-h]cinnolin-3(2H)-one | 0.3 g | CC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=NC=C3 | C18H17N3O
